US07399775B2
3-Allyloxy-2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine
Under an argon atmosphere, a tetrahydrofuran solution (1.5 ml, 3 mmol) of isopropylmagnesium chloride was added dropwise to a tetrahydrofuran (2 ml) solution of 3-allyloxy-2-bromopyridine (642 mg, 3 mmol) under ice cooling. The resulting mixture was stirred at room temperature for 60 minutes. Under ice cooling, 2,5-difluorobenzaldehyde (328 μl, 3 mmol) was added dropwise to the resulting brown solution. The temperature of the reaction mixture was raised gradually to room temperature. A saturated aqueous solution of ammonium chloride was added and then, the mixture was extracted with ethyl acetate. The solvent was dried, followed by concentration under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=4:1), whereby the title compound (375 mg, 45%) was obtained as an oil.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 3-allyloxy-2-bromopyridine | 3 mmol, 642 mg | C(C=C)OC=1C(=NC=CC1)Br | C8H8BrNO
reactant | 2,5-difluorobenzaldehyde | 3 mmol, 328 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 1.5 ml | O1CCCC1 | C4H8O
product | 3-Allyloxy-2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | C(C=C)OC=1C(=NC=CC1)C(O)C1=C(C=CC(=C1)F)F | C15H13F2NO2
